US07326791B2
(e) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-isopropylaminothiazol-4-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 17 from N-(tert-butoxycarbonyl)-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-isopropylaminothiazol-4-yl)propylamine] and trifluoroacetic acid and subsequent reaction with 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, and diisopropylamine in dimethylformamide. Yield: 45%; C29H33ClN6O2 (565.139); mass spectrum: (M+H)+=565/567 (chlorine isotope).

reactant | N-(tert-butoxycarbonyl)-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-isopropylaminothiazol-4-yl)propylamine] | C(C)(C)(C)OC(=O)N[C@@H](CCC=1N=C(SC1)NC(C)C)C1=NC2=C(N1)C=CC(=C2)Cl | C21H28ClN5O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(2-isopropylaminothiazol-4-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 45% | ClC1=CC2=C(NC(=N2)[C@H](CCC=2N=C(SC2)NC(C)C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C29H33ClN6O2S
